US07601843B2
N-[1-[2-(1-Ethylcyclohexyl)ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide
Triethylamine (1.33 mL, 9.55 mmol) was added to a solution of 1-[2-(1-ethylcyclohexyl)ethyl]-4-(5-methylpyridin-2-yl)aminopiperidine (1.31 g, 3.98 mmol) in methylene chloride (13 mL). After adding 2-furoyl chloride (0.47 mL, 4.78 mmol) while cooling on ice, the mixture was stirred for 2 hours. A 25% aqueous ammonium chloride solution was added to the reaction mixture, extraction was performed with chloroform, and the organic layer was washed with saturated aqueous sodium chloride. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (80 g NH silica Chromatorex DM2035, hexane:ethyl acetate=2:1) to obtain the title compound as a light yellow solid (1.52 g, 3.59 mmol) (90% yield).

reactant | Triethylamine | 9.55 mmol, 1.33 mL | C(C)N(CC)CC | C6H15N
reactant | 1-[2-(1-ethylcyclohexyl)ethyl]-4-(5-methylpyridin-2-yl)aminopiperidine | 3.98 mmol, 1.31 g | C(C)C1(CCCCC1)CCN1CCC(CC1)NC1=NC=C(C=C1)C | C21H35N3
reactant | 2-furoyl chloride | 4.78 mmol, 0.47 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 13 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[1-[2-(1-Ethylcyclohexyl)ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 3.59 mmol, 1.52 g, 90% yield | C(C)C1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C | C26H37N3O2
